US05047411
A mixture of 2-[2-(4-acetamido-3-nitrophenyl)vinyl]-7-methoxy-3-methylimidazo[1,2-a]pyridine (8.2 g) in ethanol (80 ml) and 6N-hydrochloric acid (80 ml) was refluxed for 4 hours and the mixture was cooled to ambient temperature. The isolated precipitate was collected by filtration. To a precipitate was added water, and a mixture was adjusted to pH 8 with saturated aqueous potassium carbonate. The precipitate was collected by filtration and dried to give 2-[2-(4-amino-3-nitrophenyl)vinyl]-7-methoxy-3-methylimidazo[1,2-a]pyridine (7.62 g).

reactant | 2-[2-(4-acetamido-3-nitrophenyl)vinyl]-7-methoxy-3-methylimidazo[1,2-a]pyridine | 8.2 g | C(C)(=O)NC1=C(C=C(C=C1)C=CC=1N=C2N(C=CC(=C2)OC)C1C)[N+](=O)[O-] | C19H18N4O4
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[2-(4-amino-3-nitrophenyl)vinyl]-7-methoxy-3-methylimidazo[1,2-a]pyridine | 7.62 g | NC1=C(C=C(C=C1)C=CC=1N=C2N(C=CC(=C2)OC)C1C)[N+](=O)[O-] | C17H16N4O3
